US07384967B2
N-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-yl-sulfanyl}-ethyl)-acetamide (156 mg, 35%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol), and N-(2-mercapto-ethyl)-acetamide (240 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | N-(2-mercapto-ethyl)-acetamide | 2 mmol, 240 mg | SCCNC(C)=O | C4H9NOS
product | N-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-yl-sulfanyl}-ethyl)-acetamide | 156 mg, 35% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC(=CN1)SCCNC(C)=O)=O | C21H26N4O3S2
